US06277993B1
A mixture of acetylacetone (41 ml), N,N-dimethylformamide dimethylacetal (106.2 ml) and THF (200 ml) was stirred at room temperature for 3 hours. After distilling off the solvent under reduced pressure, the residue was added dropwise to a solution prepared by dissolving metal sodium (13.8 g) in ethanol (600 ml) and adding thereto cyanoacetamide (33.6 g), and the mixture was refluxed for one hour. The reaction mixture was ice-cooled, and the precipitated crystals were separated by filtration. The crystals were dissolved in water (1 liter) and then weakly acidified with 3N hydrochloric acid. The precipitated crystals were separated by filtration and recrystallized from DMF-methanol to give 5-acetyl-6-methyl-1,2-dihydro-2-oxo-3-pyridinecarbonitrile (60 g) as colorless crystals. M.p. 230° C.

reactant | acetylacetone | 41 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | N,N-dimethylformamide dimethylacetal | 106.2 ml | COC(N(C)C)OC | C5H13NO2
reactant | sodium | 13.8 g | [Na] | Na
reactant | cyanoacetamide | 33.6 g | C(#N)CC(=O)N | C3H4N2O
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-acetyl-6-methyl-1,2-dihydro-2-oxo-3-pyridinecarbonitrile | 60 g | C(C)(=O)C=1C=C(C(NC1C)=O)C#N | C9H8N2O2
